US05968938
To a stirred solution of 4-nitro-2-hydroxytoluene (5 g, 33 mmol) in DMF (75 mL) at 0° C. was added 2,2,2-trifluoroethyl trifluoromethylsulfonate (13 g, 62 mmol) and Cs2CO3 (20 g, 62 mmol). The mixture was stirred at 0° C. for 30 min and then at ambient temperature for 2 h. The mixture was diluted with EtOAc (150 mL) and filtered. The filtrate solvents were removed under reduced pressure and the residue was dissolved in EtOAc (200 mL) and washed with saturated aqueous NaHCO3 (2×100 mL) and brine (50 mL). The organic phase was dried (MgSO4), filtered, and the volume was reduced to ~50 mL under reduced pressure, at which point the product had begun to crystallize. The mixture was cooled to -20° C. for 14 h, filtered, and the solids were washed with cold EtOAc. 4-Nitro-2-(2,2,2-trifluoroethoxy)toluene was obtained as a crystalline solid (HPLC retention time=10.0 min (method A)).

reactant | 4-nitro-2-hydroxytoluene | 33 mmol, 5 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)O | C7H7NO3
reactant | 2,2,2-trifluoroethyl trifluoromethylsulfonate | 62 mmol, 13 g | FC(F)(F)S(=O)(=O)OCC(F)(F)F | C3H2F6O3S
reactant | Cs2CO3 | 62 mmol, 20 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 4-Nitro-2-(2,2,2-trifluoroethoxy)toluene | [N+](=O)([O-])C1=CC(=C(C=C1)C)OCC(F)(F)F | C9H8F3NO3
